US06667301B2
A mixture of ethyl-{(S)-1-methyl-2-[4-(thiazole-2-sulfonyl)phenyl]ethyl}-amine (0.326 g, 1.02 mmole), 4-(3-oxo-[1,4]oxazepan-4-yl)-butyraldehyde (0.22 g, 1.2 mmole), and sodium triacetoxyborohydride (0.3 g, 1.4 mmole) in 1,2-dichloroethane (10 mL) was stirred at room temperature for 15 hours. The solvent was removed under reduced pressure and the residue was partitioned between 5% hydrochloric acid and diethyl ether. The aqueous phase was brought to pH 12 with 25% sodium hydroxide and the mixture was extracted with dichloromethane. The organic phase was dried (magnesium sulfate) and concentrated to give 4-(4-{ethyl-[2-(4-thiazole-2-sulfonylphenyl)-1-methylethyl]amino}butyl)-[1,4]oxazepan-3-one, 145, as an oil. Anal.: Calcd. for C23H34ClN3O4S2.1H2O: C, 51.72; H, 6.79; N, 7.87%; Found C, 51.71; H, 6.49 N 7.82%.

reactant | ethyl-{(S)-1-methyl-2-[4-(thiazole-2-sulfonyl)phenyl]ethyl}-amine | 1.02 mmole, 0.326 g | C(C)N[C@H](CC1=CC=C(C=C1)S(=O)(=O)C=1SC=CN1)C | C14H18N2O2S2
reactant | 4-(3-oxo-[1,4]oxazepan-4-yl)-butyraldehyde | 1.2 mmole, 0.22 g | O=C1COCCCN1CCCC=O | C9H15NO3
reactant | sodium triacetoxyborohydride | 1.4 mmole, 0.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-(4-{ethyl-[2-(4-thiazole-2-sulfonylphenyl)-1-methylethyl]amino}butyl)-[1,4]oxazepan-3-one | C(C)N(CCCCN1C(COCCC1)=O)C(CC1=CC=C(C=C1)S(=O)(=O)C=1SC=CN1)C | C23H33N3O4S2
